US06995144B2
1-(tert-Butoxycarbonyl)-4-methyl-4-(2-methylphenoxymethyl)piperidine
After dissolving 541 mg of 2-methylphenol in 10 ml of N,N-dimethylformamide, 171 mg of sodium hydride (70% suspension in oil), 1.00 g of 1-(tert-butoxycarbonyl)-4-methyl-4-(methanesulfonyloxymethyl)piperidine and tetra n-butylammonium iodide (catalytic amount) were added and the mixture was stirred at 120° C. overnight. Water was added to the reaction solution, and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (816 mg, 78% yield).

reactant | 2-methylphenol | 541 mg | CC1=C(C=CC=C1)O | C7H8O
reactant | sodium hydride | 171 mg | [H-].[Na+]
reactant | 1-(tert-butoxycarbonyl)-4-methyl-4-(methanesulfonyloxymethyl)piperidine | 1.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(COS(=O)(=O)C)C | C13H25NO5S
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | tetra n-butylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(tert-Butoxycarbonyl)-4-methyl-4-(2-methylphenoxymethyl)piperidine | 816 mg, 78% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(COC1=C(C=CC=C1)C)C | C19H29NO3
